* Variable resistance
.subckt strain-gauge 1 2 3 4
* 1 = R terminal 1, 2 = R terminal 2, 3 and 4 = volt in for R control
B1 1 2 I=V(1,2)/(R*(1+V(3,4)*n/L*k)+1f)
R1 4 0 1f
.param R=320
.param L=0.32
.param k=1.76
.param n=32
.ends strain-gauge
